US08685964B2
Step 1: 6-(1-Pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carbothioamide
With heating, 1 g (4 mmol) of 6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carbonitrile was dissolved in 30 ml of pyridine, and 1.5 ml of ammonium sulphide (40% strength aqueous solution, corresponds to 8.8 mmol) were added. After 1 h, the mixture was concentrated by evaporation. The residue was recrystallized from ethanol with filtration of the hot mixture, the filtrate was concentrated slightly and the precipitate formed was filtered off with suction, washed with MTBE and dried on a rotary evaporator.

reactant | 6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carbonitrile | 4 mmol, 1 g | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=CC(=N1)C#N | C14H9N5
reactant | ammonium sulphide | 8.8 mmol, 1.5 ml | [NH4+]=S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 6-(1-Pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carbothioamide | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=CC(=N1)C(N)=S | C14H11N5S
